US06462069B2
7-Bromo-benzo[b]thiophene (See Amin et al., J. Chem Soc. Perkin Trans., vol. 2, pp.1489-1492 (1982), incorporated herein by reference), (2.49 g, 11.7 mmol) was stirred in benzene (25 mL) with acetic anhydride (3.31 mL, 35.1 mmol) under argon. Tin (IV) chloride (4.1 mL, 35.1 mmol) in benzene (15 mL) was added slowly, and the reaction stirred at reflux under argon for 2 h. The red solution was allowed to cool, and was poured over ice water (60 mL). Ether (100 mL) was added, and organics were separated, washed with water (50 mL), sat NaHCO3 (50 mL), brine (50 mL), dried (Na2SO4), and concentrated in vacuo. Purification by silica gel chromatography (10% EtOAc/hexanes) gave 1.92 g (64%) of 3-acetyl-7-bromo-benzo[b]thiophene as a white solid. 1H NMR (300 MHz, CDCl3) δ8.74 (d, 1H, J=7.8 Hz), 8.33 (s, 1H), 7.58 (d, 1H, J=7.8 Hz), 7.38 (t, 1H, J=7.8 Hz),2.65 (s, 3H). Anal. (C10H7BrOS) C, H. Calculated C=47.08, H=2.77; found C=47.03; H=2.78. In addition, 490 mg (16%) of the more polar 2-acetyl-7-bromo-benzo[b]thiophene was isolated. 1H NMR (300 MHz, CDCl3) □ 8.02 (s, 1H), 7.85 (d, 1H, J=7.8 Hz), 7.62 (d, 1H, J=7.8 Hz), 7.30 (t, 1H, J=7.8 Hz), 2.67 (s, 3H).

reactant | 7-Bromo-benzo[b]thiophene | BrC1=CC=CC2=C1SC=C2 | C8H5BrS
reactant | acetic anhydride | 35.1 mmol, 3.31 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Tin (IV) chloride | 35.1 mmol, 4.1 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | Ether | 100 mL | CCOCC | C4H10O
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 3-acetyl-7-bromo-benzo[b]thiophene | 1.92 g, 64% | C(C)(=O)C=1C2=C(SC1)C(=CC=C2)Br | C10H7BrOS
